US08957064B2
2-methyl-6-phenyl-5-{4-[4-(6-trifluoromethyl-1H-benzimidazol-2-yl)-piperidin-1-ylmethyl]-phenyl}-[1,2,4]-triazolo[1,5-a]pyrimidine
200 mg (0.64 mmol) 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde and 232 mg (0.64 mmol) 2-piperidine-4-yl-6-trifluoromethyl-1H-benzimidazole hydrochloride salt were treated as described in example 2.0. Additional NaBH(OAc)3 has been added after 24 and 26 hours (two equivalents each). After five days stirring at room temperature the solvents have been evaporated and the residue was purified via chromatography. 109 mg of the desired compound were obtained.

reactant | 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.64 mmol, 200 mg | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C19H14N4O
reactant | 2-piperidine-4-yl-6-trifluoromethyl-1H-benzimidazole hydrochloride salt | 0.64 mmol, 232 mg | Cl.N1CCC(CC1)C1=NC2=C(N1)C=C(C=C2)C(F)(F)F
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 2-methyl-6-phenyl-5-{4-[4-(6-trifluoromethyl-1H-benzimidazol-2-yl)-piperidin-1-ylmethyl]-phenyl}-[1,2,4]-triazolo[1,5-a]pyrimidine | 109 mg | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NC3=C(N2)C=C(C=C3)C(F)(F)F)=N1 | C32H28F3N7
